US08071592B2
10-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one Hydrochloride
10-[2-(4-amino-1-piperidinyl)ethyl]-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one (100 mg; 0.304 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (50 mg; 0.304 mmol) were dissolved in a 5:1 mixture of chloroform and MeOH (5 ml:1 ml) and stirred at rt for 2.5 h. More 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (10 mg; 0.031 mmol) was added to the reaction and stirred for 20 mins. This was then treated with NaBH(OAc)3 (20 mg; 0.092 mmol) and stirred for 30 mins. More 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (10 mg; 0.031 mmol) was added to the reaction and stirred for 15 mins. This was then treated with NaBH(OAc)3 (20 mg; 0.092 mmol) and stirred for 15 mins. The solvents were then removed and the crude residues purified by column chromatography on silica gel using a 0-20% 2M NH3:MeOH/DCM gradient. Fractions containing the desired were concentrated to afford the free base of the title compound. (140 mg; 96%). δH CDCl3, (400 MHz) 1.49 (m, 2H), 1.8-2.6 (m, 8H), 2.76 (m, 2H), 3.04 (d, 2H), 3.81 (s, 2H), 4.2-4.4 (m, 8H), 4.71 (m, 2H), 6.51 (d, 1H), 6.78 (d, 1H), 6.83 (s, 1H), 7.01 (d, 1H), 7.49 (d, 1H), 8.1 (s, 1H).

reactant | 10-[2-(4-amino-1-piperidinyl)ethyl]-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one | 0.304 mmol, 100 mg | NC1CCN(CC1)CCN1C(C=CC=2C=CC3=C(C12)OCCO3)=O | C18H23N3O3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | 0.031 mmol, 10 mg | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | NaBH(OAc)3 | 0.092 mmol, 20 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | 0.031 mmol, 10 mg | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | NaBH(OAc)3 | 0.092 mmol, 20 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 5 ml | CO | CH4O
product | 10-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one Hydrochloride | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC=1C=CC3=C(C21)OCCO3)=O | InChI=1S/C26H30N4O5.ClH/c31-24-4-2-18-1-3-21-26(35-14-13-32-21)25(18)30(24)10-9-29-7-5-19(6-8-29)27-16-20-15-22-23(17-28-20)34-12-11-33-22;/h1-4,15,17,19,27H,5-14,16H2;1H
